US03946036
6,11-dihydro-11-oxo-dibenzo[b,e]thiepine-2-acetic acid
66 cc of thionyl chloride are added at room temperature to 13.2 g of 4-(2-carboxy-benzyl-thio)phenyl-acetic acid ethyl ester and the mixture is stirred for 90 minutes until gas evolution stops. The mixture is completely concentrated by evaporation at reduced pressure and the resulting light yellow oil is dissolved in ether, whereby 4-(2-chloro-carbonyl-benzyl-thio)phenyl-acetic acid ethyl ester precipitates in the form of light yellow crystals. M.P. 78°-79°.

reactant | thionyl chloride | 66 cc | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(2-carboxy-benzyl-thio)phenyl-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)SCC1=C(C=CC=C1)C(=O)O)=O | C18H18O4S
product | 6,11-dihydro-11-oxo-dibenzo[b,e]thiepine-2-acetic acid | O=C1C2=C(SCC3=C1C=CC=C3)C=CC(=C2)CC(=O)O | C16H12O3S
